US04814110
Resorcinol (13.76 g, 0.125 mole), 0.7 g 4-dimethylaminopyridine (0.68 g, 0.0057 mole), triethylamine (2.5 g, 0.025 mole) were dissolved in 50 ml of acetone in a 250 ml round bottom flask equipped with a magnetic stir bar. Octanoic anhydride (6.7 g, 0.025 mole) was dissolved in 15 ml of acetone and added dropwise, via an addition funnel, to the stirred solution over 10 minutes, the resulting pale yellow solution was stirred for an additional 13/4 hours, at which time the solvent was removed via rotary vacuum evaporation. The remaining oil was dissolved in 200 ml of ethyl ether and extracted one time with 200 ml of 3% HCl to remove the 4-dimethylaminopyridine catalyst and four times with 100 ml of 5% NaHCO3 to remove octanoic acid. After drying the organic phase with 40 grams Na2SO4, the ether was removed by rotary vacuum evaporation and the oil redissolved in 100 ml of 1:1 (vol) of benzene/cyclohexane. Unreacted resorcinol was crystallized out after two hours at about 10° C. which was then removed by filtration. After one more wash with 5% NaHCO 3, the solvent from the organic phase was removed by rotary vacuum evaporation to give 5.9 grams of resorcinol monooctanoate (90-95 wt. % yield).

reactant | Resorcinol | 0.125 mole, 13.76 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | triethylamine | 0.025 mole, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | Octanoic anhydride | 0.025 mole, 6.7 g | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
catalyst | 4-dimethylaminopyridine | 0.0057 mole, 0.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | resorcinol monooctanoate | 5.9 grams | C(CCCCCCC)(=O)OC1=CC(O)=CC=C1 | C14H20O3
